US06492398B1
Preparation of 4-Amino-N-(4-aminomethylpyridinyl) benzene-sulfonamide
To a 250 ml round bottom flask was added 50 ml of dry pyridine, 4-(aminomethyl) pyridine (10.4 g, 50.0 mmol) and a magnetic stir bar. The mixture was stirred and cooled to 0° C. under nitrogen followed by the addition of N-acetylsulfanilyl chloride (12.8 g, 55.0 mmol). The resultant mixture was stirred at 0° C. under nitrogen for 5 min, and the reaction was allowed to warm to room temperature and stirred for 16 hours. The reaction mixture was concentrated to a thick residue and poured onto about 500 g of ice and water. The residue in the flask was rinsed into the ice and water with 25 ml of MeOH to precipitate the N-acetyl sulfanilamide. The resultant precipitate was filtered, washed with excess water and dried under vacuum at 50° C. The solid was suspended in 75 ml of 1N hydrochloric acid and heated to 100° C. until all starting material had been consumed. The reaction mixture was cooled and neutralized with ammonium hydroxide. The precipitate was filtered and dried under vacuum at 50° C. to yield 5.78 g, 43.9% of the compound: 1H NMR (DMSO-d6): δ 8.42 (d, 2H), 7.76 (t, 1H), 7.39 (d, 2H), 7.22 (d, 2H), 6.56 (d, 2H), 5.91 (s, 2H), 3.89 (d, 2H); APCI-MS m/z 264 (MH)+.

reactant | 4-(aminomethyl) pyridine | 50.0 mmol, 10.4 g | NCC1=CC=NC=C1 | C6H8N2
reactant | N-acetylsulfanilyl chloride | 55.0 mmol, 12.8 g | C(C)(=O)NC1=CC=C(S(=O)(=O)Cl)C=C1 | C8H8ClNO3S
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-Amino-N-(4-aminomethylpyridinyl) benzene-sulfonamide | 5.78 g, 43.9% | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC(=C1)CN | C12H14N4O2S
